US08003663B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide monohydrochloride (20.0 g, 0.0304 mol, e.g. optionally the Form 1 anhydrate thereof) was suspended in ethyl acetate (150 ml). Potassium carbonate (7.5 g in 50 ml water) was added dropwise, and the mixture was stirred vigorously for 3 hours. The solid was filtered off, washed with ethyl acetate (30 ml), and dried at 50° C. Analysis indicates that this product contains about 1.5% of chloride. The product was suspended in isopropanol (160 ml), and Dowex 550A resin (10 g) was added. The suspension was heated to 60° C. for 1 hour, and was filtered while hot. The filtrate was concentrated to leave a white foam. Dichloromethane (100 ml) was added and the resulting mixture was concentrated to dryness to give the title compound (the “free base”). Analysis indicates about 0.3% of chloride remaining; NMR analysis indicates about 0.3% of water present.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide monohydrochloride | Cl.C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC=C(C=C2)NC(CCCCCCCN(C)CCO)=O)=O)CC
reactant | Potassium carbonate | 50 ml, 7.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC=C(C=C2)NC(CCCCCCCN(C)CCO)=O)=O)CC | C34H51N7O4
